US07550629B2
D. 2-(4-Chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester
4-Chlorophenyl sulphonyl chloride (85 mg, 0.40 mmol) was added to a solution of 2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester (108 mg, 0.40 mmol) and pyridine (0.15 mL, 1.00 mmol) in CH2Cl2 (2 mL) and the reaction was subsequently stirred for 18 hours at 25° C. The solvent was removed in vacuo and the residue was dissolved in EtOAc (20 mL). This solution was washed with 1M HCl (2×10 mL) and brine (10 mL), dried over Na2SO4 and evaporated to afford a crude oil which was purified by flash chromatography, eluting with 20:80 EtOAc:hexanes, to provide the title compound (125 mg) as an oil in 70% yield. Mass Spectrum (−ESI): 446.0 [M−H]−.

reactant | 4-Chlorophenyl sulphonyl chloride | 0.40 mmol, 85 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester | 0.40 mmol, 108 mg | COC(C(C(CC(F)(F)F)CC(F)(F)F)N)=O | C8H11F6NO2
reactant | pyridine | 1.00 mmol, 0.15 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester | 125 mg, 70% yield | COC(C(C(CC(F)(F)F)CC(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C14H14ClF6NO4S
